US05977219
5-Trifluoromethyl-2-[2-hydroxy-4-(2-ethylhexanoylamino)phenyl]-2H-benzotriazole
To a mixture of 4 g of 5-trifluoromethyl-2-(2-hydroxy-4-aminophenyl)-2H-benzotriazole and 1.4 g of triethylamine in 75 mL of toluene is added dropwise a mixture of 2-ethylhexanoyl chloride in 125 mL of toluene. The resulting mixture is treated with 100 mL of water and the crude product formed is purified by column chromatography to give 1.9 g of the title compound melting at 179-181° C. The structure is confirmed by nmr.

reactant | 5-trifluoromethyl-2-(2-hydroxy-4-aminophenyl)-2H-benzotriazole | 4 g | FC(C1=CC=2C(=NN(N2)C2=C(C=C(C=C2)N)O)C=C1)(F)F | C13H9F3N4O
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | water | 100 mL | O | H2O
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Trifluoromethyl-2-[2-hydroxy-4-(2-ethylhexanoylamino)phenyl]-2H-benzotriazole | 1.9 g | FC(C1=CC=2C(=NN(N2)C2=C(C=C(C=C2)NC(C(CCCC)CC)=O)O)C=C1)(F)F | C21H23F3N4O2
